US09035062B2
(2S,5R)-Methyl 6-(benzyloxy)-7-oxo-1,6-diazabicyclo[3.2.1]octane-2-carboxylate (F1-3a)
66 mg (0.239 mmol) of (2S,5R)-6-(benzyloxy)-7-oxo-1,6-diazabicyclo[3.2.1]octane-2-carboxylic acid was dissolved in toluene (0.6 mL) and methanol (0.6 mL), and, under ice cooling, 0.54 mL (0.324 mmol) of 0.6 M trimethylsilyldiazomethane-hexane solution was added, followed by stifling for 20 minutes. The reaction solution was concentrated under reduced pressure, and the resulting residue was subjected to silica gel column chromatography (hexane/ethyl acetate=2/1) to afford 21.5 mg of the title compound as a colorless solid (yield 31%). The resulting solid was recrystallized with ethyl acetate-hexane, the generated precipitate was filtered off, the wet crystal was washed with hexane, and subsequently dried under reduced pressure at room temperature to afford the title compound as a colorless crystalline powder. Enantiomeric excess: 99.9% ee or more (CHIRALPAK AD-H, 4.6×150 mm, hexane/ethanol=2/1, UV 210 nm, flow rate 1 mL/min., retention time 12.8 min.).

reactant | (2S,5R)-6-(benzyloxy)-7-oxo-1,6-diazabicyclo[3.2.1]octane-2-carboxylic acid | 0.239 mmol, 66 mg | C(C1=CC=CC=C1)ON1[C@@H]2CC[C@H](N(C1=O)C2)C(=O)O | C14H16N2O4
reactant | trimethylsilyldiazomethane hexane | 0.324 mmol, 0.6 M, 0.54 mL | C[Si](C)(C)C=[N+]=[N-].CCCCCC
solvent | toluene | 0.6 mL | C1(=CC=CC=C1)C | C7H8
solvent | methanol | 0.6 mL | CO | CH4O
product | (2S,5R)-Methyl 6-(benzyloxy)-7-oxo-1,6-diazabicyclo[3.2.1]octane-2-carboxylate | 21.5 mg, yield 31% | C(C1=CC=CC=C1)ON1[C@@H]2CC[C@H](N(C1=O)C2)C(=O)OC | C15H18N2O4
